US08048899B2
To a solution of 3.78 g (15.09 mol) of 2-methyl-2-(3-methyl-butane-1-sulfonyl)-propionic acid ethyl ester in THF/water (4/1, 50 mL) are added 1.58 g (37.74 mmol) of lithium hydroxide monohydrate. The reaction is stirred at room temperature for 18 h. The reaction mixture is concentrated under reduced pressure and the residue dissolved in DCM (20 mL) and extracted with water (50 mL). The aqueous layer is cooled in an ice bath and then acidified with 6M aqueous HCl solution to pH 1. The resulting precipitate is isolated by filtration, and dried under reduced pressure at 50° C. to afford 3.35 g of 2-methyl-2-(3-methyl-butane-1-sulfonyl)-propionic acid as white crystalline solids. Yield: 100%; ES-MS: m/z 221 [M−H].

reactant | 2-methyl-2-(3-methyl-butane-1-sulfonyl)-propionic acid ethyl ester | 15.09 mol, 3.78 g | C(C)OC(C(C)(S(=O)(=O)CCC(C)C)C)=O | C11H22O4S
reactant | lithium hydroxide monohydrate | 37.74 mmol, 1.58 g | O.[OH-].[Li+]
solvent | 1,4-dioxane water | 50 mL | O1CCOCC1.O
product | 2-methyl-2-(3-methyl-butane-1-sulfonyl)-propionic acid | 3.35 g, Yield: 100% | CC(C(=O)O)(C)S(=O)(=O)CCC(C)C | C9H18O4S
